US06949542B2
8-Chloro-7-methyl-4-(3-pyrimidin-2-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (2-amino-4-chloro-5-methyl-phenyl)-carbamic acid tert-butyl ester (Example J22) (128 mg, 0.5 mmol) and 3-oxo-3-(3-pyrimidin-2-yl-phenyl)-propionic acid tert-butyl ester (Example K44) (179 mg, 0.6 mmol) according to the general procedure M and subsequent treatment of the crude product according to the general procedure N. Obtained as a light yellow solid (81 mg).

reactant | (2-amino-4-chloro-5-methyl-phenyl)-carbamic acid tert-butyl ester | 0.5 mmol, 128 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)Cl)N)=O | C12H17ClN2O2
reactant | 3-oxo-3-(3-pyrimidin-2-yl-phenyl)-propionic acid tert-butyl ester | 0.6 mmol, 179 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=NC=CC=N1)=O)=O | C17H18N2O3
product | 8-Chloro-7-methyl-4-(3-pyrimidin-2-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC=1C(=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=NC=CC=N2)=O)C1)C | C20H15ClN4O
